US06214853B1
N-[4-(Isopropylformylamino)cyclohexyl]methylthiourea:
K2CO3 (2 equivalents) in water was added to a solution of N-benzoyl-N′-[4-(isopropylformylamino)cyclohexyl]methyl-thiourea in MeOH and stirred at room temperature overnight. The solvent was removed in vacuo and the residue was dissolved in EtOH. The solution was filtered to remove a white precipitate and the filtrate concentrated. The crude product was chromatographed to yield the desired product: 100% yield; 100% yield; 258 (ESMS, MH+); 1H NMR (CD3OD) δ 8.15 & 8.13 (two s, 1H), 4.15 & 3.73 (two m, 1H) 3.34 & 2.97 (two m, 1H), 3.29 (m, 2H), 1.26 (d, 3H, J=6.7 Hz), 1.23(d, 3H, J=6.7 Hz), 1.91-1.03 (m, 9H).

reactant | K2CO3 | 2 equivalents | C(=O)([O-])[O-].[K+].[K+]
reactant | N-benzoyl-N′-[4-(isopropylformylamino)cyclohexyl]methyl-thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCC1CCC(CC1)NC(=O)C(C)C | C19H27N3O2S
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
product | N-[4-(Isopropylformylamino)cyclohexyl]methylthiourea | 100% yield | C(C)(C)C(=O)NC1CCC(CC1)CNC(=S)N | C12H23N3OS
